US07608629B2
4-Fluoro-N-[6-(1-methyl-piperidin-4-yloxy)-pyridin-2-yl]-benzamide hydrogen chloride salt
Using a method similar to example 160, starting with 6-(1-methyl-piperidin-4-yloxy)-pyridin-2-ylamine (preparation 60, 150 mg, 0.724 mmol) and 4-fluorobenzoyl chloride (128 μL, 1.08 mmol) yields the title compound (256 mg, 97%). Mass spectrum (ion spray): m/z 330.1 (M+1); Analysis calculated for C18H21N3O2FCl.0.5H2O. The C, 57.68; H, 5.92; N, 11.21. Found: C, 57.76; H, 6.17; N, 11.44. mp=203-205° C.

reactant | 6-(1-methyl-piperidin-4-yloxy)-pyridin-2-ylamine | 0.724 mmol, 150 mg | CN1CCC(CC1)OC1=CC=CC(=N1)N | C11H17N3O
reactant | 4-fluorobenzoyl chloride | 1.08 mmol, 128 μL | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
product | 4-Fluoro-N-[6-(1-methyl-piperidin-4-yloxy)-pyridin-2-yl]-benzamide hydrogen chloride salt | 256 mg, 97% | Cl.FC1=CC=C(C(=O)NC2=NC(=CC=C2)OC2CCN(CC2)C)C=C1 | InChI=1S/C18H20FN3O2.ClH/c1-22-11-9-15(10-12-22)24-17-4-2-3-16(20-17)21-18(23)13-5-7-14(19)8-6-13;/h2-8,15H,9-12H2,1H3,(H,20,21,23);1H
